US03946022
A mixture of 32.0 g (0.12 mole) of α,α-diphenyl-4-piperidinemethanol, 38.0 g (0.15 mole) of 4'-tert-butyl-5-chlorovalerophenone, 27.8 g (0.2 mole) of potassium bicarbonate, and 200 mg of potassium iodide in about 500 ml of toluene is stirred and refluxed for 142 hours then filtered while hot. About 50 ml of ether is added to the filtrate which is then made acidic using ethereal HCl. The resulting precipitate is recrystallized from methanol-butanone to give 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride, M.P. 209.5°-211°C.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.12 mole, 32.0 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4'-tert-butyl-5-chlorovalerophenone | 0.15 mole, 38.0 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCCl)=O | C15H21ClO
reactant | potassium bicarbonate | 0.2 mole, 27.8 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 200 mg | [I-].[K+]
solvent | toluene | about 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-tert-butyl-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C33H41NO2.ClH/c1-32(2,3)27-19-17-26(18-20-27)31(35)16-10-11-23-34-24-21-30(22-25-34)33(36,28-12-6-4-7-13-28)29-14-8-5-9-15-29;/h4-9,12-15,17-20,30,36H,10-11,16,21-25H2,1-3H3;1H
